US04564386
A mixture of a 40% aqueous solution of methylamine (0.7 g), 4-(trifluoromethanesulfonamido)benzenesulfonyl chloride (1.5 g) and water (20 ml) was allowed to stand overnight and made acidic with hydrochloric acid to precipitate crystals, which were then recrystallized from a mixture of water and ethanol to give 0.65 g of N-methyl-4-(trifluoromethanesulfonamido)benzenesulfonamide. M.P., 156°-157° C.

reactant | methylamine | 0.7 g | CN | CH5N
reactant | 4-(trifluoromethanesulfonamido)benzenesulfonyl chloride | 1.5 g | FC(S(=O)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H5ClF3NO4S2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 ml | O | H2O
product | N-methyl-4-(trifluoromethanesulfonamido)benzenesulfonamide | 0.65 g | CNS(=O)(=O)C1=CC=C(C=C1)NS(=O)(=O)C(F)(F)F | C8H9F3N2O4S2
